US06329381B1
6-Amino-9-benzyl-2-[(4-chlorobenzyl)thio]-8-hydroxypurine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (134 _mg, 0.49 mmol) was suspended in dimethylformamide (65 ml). To the suspension were added potassium carbonate (100 mg, 0.72 mmol) and 4-chlorobenzyl chloride (130 mg, 0.81 mmol) in order. The mixture was stirred at room temperature for 8 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (5% methanol/chloroform) to give the subject compound (74 mg, yield 38%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.49 mmol | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobenzyl chloride | 0.81 mmol, 130 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-2-[(4-chlorobenzyl)thio]-8-hydroxypurine | 74 mg, yield 38% | NC1=C2N=C(N(C2=NC(=N1)SCC1=CC=C(C=C1)Cl)CC1=CC=CC=C1)O | C19H16ClN5OS
